US05434154
To a solution of crude 3-[5-[[(methylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl methanesulfonate (18.3 mmol, 1.0 equiv.) in 225 mL of anhydrous acetonitrile was added 3.03 g (18.3 mmol, 1.0 equiv.) of potassium iodide, 3.81 mL (21.9 mmol, 1.2 equiv.) of N,N-diisopropylethylamine and 3.89 g (20.1 mmol, 1.1 equiv.) of 1-(5-methoxy-4-pyrimidinyl)piperazine. The mixture was heated to reflux for sixteen hours. The reaction mixture was concentrated in vacuo and the residue was taken up in 500 mL of chloroform. The organic layer was washed with 100 mL portions of 10% potassium carbonate and saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield an oil. The oil was purified by chromatography on silica gel using 5% methanol in methylene chloride containing 0.5% concentrated aqueous ammonium hydroxide followed by chromatography on silica gel using 20% methanol in ethyl acetate to obtain 4.83 g (58%) of 4-(5-methoxy-4-pyrimidinyl)-1-[3-[5-[[(methylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl]piperazine. The hydrochloride salt was prepared by addition of 3N ethanolic HCl. Two recrystallizations from hot methanol gave 4.05 g (68%) of 4-(5-methoxy-4-pyrimidinyl)-1-[3-[5-[[(methylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl]piperazine hydrochloride, m.p. 170° C. (d). Elemental analysis calculated for C22H30N6O3S/3 HCl: C, 46.52; H, 5.86; N, 14.80; found: C, 46.14; H, 6.22; N, 14.51.

reactant | 3-[5-[[(methylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl methanesulfonate | 18.3 mmol, 1.0 equiv. | CS(=O)(=O)OCCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C14H20N2O5S2
reactant | potassium iodide | 18.3 mmol, 3.03 g, 1.0 equiv. | [I-].[K+]
reactant | N,N-diisopropylethylamine | 21.9 mmol, 3.81 mL, 1.2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(5-methoxy-4-pyrimidinyl)piperazine | 20.1 mmol, 3.89 g, 1.1 equiv. | COC=1C(=NC=NC1)N1CCNCC1 | C9H14N4O
solvent | acetonitrile | 225 mL | C(C)#N | C2H3N
product | 4-(5-methoxy-4-pyrimidinyl)-1-[3-[5-[[(methylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl]piperazine | 4.83 g, 58% | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C22H30N6O3S
